US08685418B2
To a stirred solution of benzoic acid 2-cyclohexylamino-1-methyl-ethyl ester (1.0 g, 3.8 mmol) in DCE (20 mL) were added successively K2CO3 (2.11 g, 15.2 mmol) and ethyl iodide (1.8 mL, 22 mmol). The resulting mixture was heated at 50° C. for 16 hours in a sealed tube. Ethyl iodide (1.8 mL) was again added and the reaction mixture heated at 60° C. for another 24 hours. The reaction mixture was filtered and washed 5% methanol-DCM. The filtrate was concentrated and the crude material was purified by Combiflash® chromatography eluting with 6-7% methanol/DCM to provide 1-(cyclohexyl(ethyl)amino)propan-2-yl benzoate. Yield: 1.04 g (94.70%). 1H NMR (DMSO-d6) δ 7.95 (d, J=7 Hz, 2 H), 7.64 (t, J=7 Hz, 1 H), 7.52 (t, J=8 Hz, 2 H), 5.08-5.04 (m, 1 H), 2.68-2.62 (m, 1 H), 2.55-2.40 (m, 4 H), 1.70-1.53 (m, 5 H), 1.26 (d, J=6 Hz, 3 H), 1.19-1.07 (m, 5 H), 0.93 (t, J=7 Hz, 3 H). LCMS: m/z=290.4 [M+H], RT=3.93 min, (Column: Y, Program: P1)

reactant | benzoic acid 2-cyclohexylamino-1-methyl-ethyl ester | 3.8 mmol, 1.0 g | C1(CCCCC1)NCC(C)OC(C1=CC=CC=C1)=O | C16H23NO2
reactant | K2CO3 | 15.2 mmol, 2.11 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl iodide | 22 mmol, 1.8 mL | C(C)I | C2H5I
reactant | Ethyl iodide | 1.8 mL | C(C)I | C2H5I
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
product | 1-(cyclohexyl(ethyl)amino)propan-2-yl benzoate | C(C1=CC=CC=C1)(=O)OC(CN(CC)C1CCCCC1)C | C18H27NO2
